US08445509B2
Production of 1-(4-fluorophenyl)-6-(1-methylethyl)-2-oxo-1,2-dihydropyridine-3-carbonitrile
A mixture of (1E)-1-methoxy-4-methylpenta-1-en-3-one (508 mg, 3.96 mmol), 2-cyano-N-(4-fluorophenyl)acetamide (847 mg, 4.75 mmol), 1,4-diazabicyclo[2.2.2]octane (444 mg, 3.96 mmol) and 2-(2-methoxyethoxy)ethanol (10 mL) was stirred at 130° C. for 6 hr. After cooling to room temperature, the mixture was diluted with ethyl acetate, washed with 1N hydrochloric acid, water (×2) and saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (ethyl acetate/hexane=0/100→60/40) and silica gel column chromatography (NH silica gel, ethyl acetate/hexane=0/100→60/40) to give the title compound (604 mg, 59%) as a yellow solid.

reactant | (1E)-1-methoxy-4-methylpenta-1-en-3-one | 3.96 mmol, 508 mg | CO\C=C\C(C(C)C)=O | C7H12O2
reactant | 2-cyano-N-(4-fluorophenyl)acetamide | 4.75 mmol, 847 mg | C(#N)CC(=O)NC1=CC=C(C=C1)F | C9H7FN2O
reactant | 1,4-diazabicyclo[2.2.2]octane | 3.96 mmol, 444 mg | N12CCN(CC1)CC2 | C6H12N2
reactant | 2-(2-methoxyethoxy)ethanol | 10 mL | COCCOCCO | C5H12O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-fluorophenyl)-6-(1-methylethyl)-2-oxo-1,2-dihydropyridine-3-carbonitrile | 604 mg, 59% | FC1=CC=C(C=C1)N1C(C(=CC=C1C(C)C)C#N)=O | C15H13FN2O
